US05856529
Step 2: 2-Methyl-benzofuran-4-methanol
Ethyl 2-methyl-benzofuran-4-carboxylic acid (5.11 g, 26.6 mmol) was reduced with LAH (2 g, 53 mmol) similar to the above procedures to give the product as a clear oil (3.34 g, 78%).

reactant | Ethyl 2-methyl-benzofuran-4-carboxylic acid | 26.6 mmol, 5.11 g | C(C)C1=C(OC=2C1=C(C=CC2)C(=O)O)C | C12H12O3
reactant | LAH | 53 mmol, 2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2-Methyl-benzofuran-4-methanol | 3.34 g, 78% | CC=1OC=2C(C1)=C(C=CC2)CO | C10H10O2
